US09340556B2
To a yellow solution of 5-chloro-1-ethyl-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy)cinnolin-4(1H)-one (6 g, 8.45 mmol) in Dichloromethane (DCM) (100 mL) was added manganese dioxide (12.11 g, 118 mmol), and the mixture was stirred at r.t. overnight. Solid was filtered off and washed with DCM. The filtrate was concentrated to afford 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde (4 g, 4.79 mmol, 56.7% yield) as a crude dark brown solid. LCMS: (M+H)+: 509.3.

reactant | 5-chloro-1-ethyl-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy)cinnolin-4(1H)-one | 8.45 mmol, 6 g | ClC1=C2C(C(=NN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)CO)=O | C27H27ClN2O6
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 118 mmol, 12.11 g | [O-2].[O-2].[Mn+4]
product | 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde | 4.79 mmol, 4 g, 56.7% yield | ClC1=C2C(C(=NN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)C=O)=O | C27H25ClN2O6
